US08283442B2
2-(2-Hydroxy-ethylamino)-2-methyl-propan-1-ol was prepared from 2-amino-2-methyl-propan-1-ol following a modified procedure from Cottle et al. J. Chem. Soc. 1946, 289. To a solution of 2-amino-2-methyl-propan-1-ol (250 mL, 2.61 mol, 1.76 equiv.) in H2O (400 mL) at −5° C. (external temperature, NaCl/ice bath) was added ethylene oxide (65.25 g, 1.48 mol, condensed at −78° C.). The solution was stirred over 16 hours, during which time the temperature warmed to room temperature. The H2O was removed in vacuo and the remaining 2-amino-2-methyl-propan-1-ol was distilled. The crude residue was dissolved in boiling EtOAc and precipitated with the addition of hexanes to provide 2-(2-Hydroxy-ethylamino)-2-methyl-propan-1-ol (145.5 g, 74%) as colorless crystals. LC/MS found 134.03 (M++H, C6H16NO2 requires 134.12).

reactant | 2-amino-2-methyl-propan-1-ol | NC(CO)(C)C | C4H11NO
reactant | 2-amino-2-methyl-propan-1-ol | 2.61 mol, 250 mL, 1.76 equiv. | NC(CO)(C)C | C4H11NO
reactant | ethylene oxide | 1.48 mol, 65.25 g | C1CO1 | C2H4O
solvent | H2O | 400 mL | O | H2O
product | 2-(2-Hydroxy-ethylamino)-2-methyl-propan-1-ol | 145.5 g, 74% | OCCNC(CO)(C)C | C6H15NO2
